US08038731B2
Step 1: 1,1′-(Disulphanediyldiethane-2,1-diyl)bis(4-methylpyridinium)dibromide
67 g of 4-picoline are diluted in 100 ml of acetonitrile and the mixture is heated to 80° C. A mixture of 60 g of 1-bromo-2-[(2-bromoethyl)disulphanyl]ethane and 15 ml of N-methylpyrrolidone (NMP) is added over 5 minutes. After 4 hours of stirring at 85° C., the mixture is cooled. The solid obtained is filtered off, rinsed with 3×200 ml of acetonitrile and then dissolved in 800 ml of isopropanol (at reflux). After cooling, 1 l of ethyl ether is added. The precipitate formed is filtered off, rinsed with 3×200 ml of ethyl ether and then dried. The off-white powder obtained (73.77 g) contains a great majority (>90%) of the expected product, which is used as it is for the following step.

reactant | 4-picoline | 67 g | N1=CC=C(C=C1)C | C6H7N
reactant | 1-bromo-2-[(2-bromoethyl)disulphanyl]ethane | 60 g | BrCCSSCCBr | C4H8Br2S2
reactant | N-methylpyrrolidone | 15 ml | CN1C(CCC1)=O | C5H9NO
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1,1′-(Disulphanediyldiethane-2,1-diyl)bis(4-methylpyridinium)dibromide | >90% | [Br-].[Br-].S(SCC[N+]1=CC=C(C=C1)C)CC[N+]1=CC=C(C=C1)C | InChI=1S/C16H22N2S2.2BrH/c1-15-3-7-17(8-4-15)11-13-19-20-14-12-18-9-5-16(2)6-10-18;;/h3-10H,11-14H2,1-2H3;2*1H/q+2;;/p-2
